US06699890B2
To a suspension of 10% Pd on activated carbon (25 g) in ethanol (4L), under N2 protection, was added 1-cyclopentyloxy-2-methoxy-5-nitrobenzene (250 g, 1.054 mol). The reaction mixture was degassed under vacuum three times. The reaction mixture was stirred vigorously while hydrogen gas was allowed to flow over the reaction mixture. After 4 h the reaction was complete by TLC (5:1 hex:EA). The reaction mixture was filtered through a pad of celite and the celite was rinsed with additional ethanol. The solvent was removed in-vacuo to obtain 208.38 g (95% yield) of 3-cyclopentyloxy-4-methoxyaniline as a red liquid. 1H NMR (CDCl3) δ 6.85 (d. J=8.4 Hz, 1H), 6.29 (s, 1H), 6.19 (dd, J=2.8, 8.4, 1H), 4.69 (p, J=4.4 Hz, 1H), 3.75 (s, 3H), 3.44 (bs, 2H),1.90-1.81 (m, 6H), 1.61-1.55 (m, 2H).

reactant | 1-cyclopentyloxy-2-methoxy-5-nitrobenzene | 1.054 mol, 250 g | C1(CCCC1)OC1=C(C=CC(=C1)[N+](=O)[O-])OC | C12H15NO4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd on activated carbon | 25 g | [Pd] | Pd
product | 3-cyclopentyloxy-4-methoxyaniline | 208.38 g, 95% yield | C1(CCCC1)OC=1C=C(N)C=CC1OC | C12H17NO2
